US05262533
To a stirred mixture of 17-ethyl-1,14-dihydroxy-12-[2'-(3",4"-dihydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg, 0.126 mmol, 1 eq) and Cu(OAc)2 (3 mg, 0.0165 mmol, 0.13 eq) in CH2Cl2 (1 ml) in a 4 mL screw-cap vial equipped with a magnetic stir-bar is added tri(4-fluoro) bismuth diacetate [prepared immediately prior to use by addition of acetic acid (0.030 mL, 0.504 mmol, 4 eq) to a suspension of tri(4-fluorophenyl) bismuth carbonate (100 mg, 0.181 mmol, 1.4 eq) in CH2Cl2 (1 mL)]. The reaction vessel is capped and the mixture stirred for sufficiency time. The reaction mixture is diluted with several milliliters of saturated aqueous NaHCO3 and extracted 2 times with CH2Cl2. The organic extracts are combined, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The product is isolated by preparative TLC on silica gel to afford 17-ethyl-1,14-dihydroxy-12-[2'-(3"-(4'"-fluorophenyloxy)-4"-hydroxycyclohexyl)-1'-methylvinyl] 23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone.

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(3",4"-dihydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.126 mmol, 100 mg, 1 eq | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)(OC)O)C)C)O)=O | C43H69NO13
reactant | acetic acid | 0.504 mmol, 0.030 mL, 4 eq | C(C)(=O)O | C2H4O2
reactant | tri(4-fluorophenyl) bismuth carbonate | 0.181 mmol, 100 mg, 1.4 eq | C(O)(O)=O.FC1=CC=C(C=C1)[Bi](C1=CC=C(C=C1)F)C1=CC=C(C=C1)F
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | several milliliters | C(=O)(O)[O-].[Na+]
catalyst | Cu(OAc)2 | 0.0165 mmol, 3 mg, 0.13 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(3"-(4'"-fluorophenyloxy)-4"-hydroxycyclohexyl)-1'-methylvinyl] 23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC2=CC=C(C=C2)F)C)C)O)=O | C48H70FNO12
